US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
A mixture of ethyl 8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.4 g, 1 mmol) and tert-butyl 2-aminoacetate hydrochloride (0.3 g, 2 mmol) in 2 mL dioxane, was treated with N-ethyl-N-isopropylpropan-2-amine (0.5 g, 4 mmol). The resulting mixture was warmed to 85° C. and stirred for 4 hours, M+Na=402, M+1=380. The mixture was then cooled to room temperature and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-30% EtOAc/hexane to give 0.4 g of the title compound as a pale white solid. MS (m/z)=378 (M−1)−.

reactant | ethyl 8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 1 mmol, 0.4 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)OCC)O)O | C15H15FO5
reactant | tert-butyl 2-aminoacetate hydrochloride | 2 mmol, 0.3 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 4 mmol, 0.5 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((8-fluoro-4,7-dihydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.4 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O)O | C19H22FNO6
